US09120749B2
trans-4-(pyrrolidin-1-ylmethyl)cyclohexanamine dihydrochloride
To a solution of tert-butyl (trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)carbamate (1.28 g, 4.53 mmol) in THF (15 mL) was added aqueous 6 N HCl (6 mL) and water (6 mL) and the reaction mixture was heated at 65° C. for 3 h. The reaction mixture was cooled to room temperature and concentrated to afford the desired product (1.2 g, >99%) as an off-white solid. ESI MS m/z 183 [C11H22FN2+H H]+

reactant | tert-butyl (trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)carbamate | 4.53 mmol, 1.28 g | N1(CCCC1)C[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C16H30N2O2
reactant | HCl | 6 N, 6 mL | Cl | ClH
reactant | water | 6 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | trans-4-(pyrrolidin-1-ylmethyl)cyclohexanamine dihydrochloride | 1.2 g, >99% | Cl.Cl.N1(CCCC1)C[C@@H]1CC[C@H](CC1)N | InChI=1S/C11H22N2.2ClH/c12-11-5-3-10(4-6-11)9-13-7-1-2-8-13;;/h10-11H,1-9,12H2;2*1H/t10-,11-;;
